US07855221B2
Crystalline Freebase 4′-{5-[((S)-2-Acetylsulfanyl-4-methylpentanoylamino)methyl]-2-ethoxy-4-ethylimidazol-1-ylmethyl}-3′-fluorobiphenyl-2-carboxylic Acid
Crystalline 4′-(5-aminomethyl-2-ethoxy-4-ethylimidazol-1-ylmethyl)-3′-fluorobiphenyl-2-carboxylic acid t-butyl ester (dicyclohexylamine salt; 18 g, 40 mmol, 1 eq.), (S)-2-acetylsulfanyl-4-methylpentanoic acid (18 g, 48 mmol, 1.2 eq.), and HCTU (19 g, 48 mmol, 1.2 eq.) were combined in a pre-chilled vessel (0° C. for 10 minutes) and cold DCM (240 mL) was added. The mixture was stirred at 1±2° C. for 5-15 hours. 4% NaHCO3 (200 mL) was added and the mixture was stirred for 15 minutes. The DCM layer was separated and distilled to ˜100 mL. IPAc (150 mL) was added and distill to 150 mL. Additional IPAc (200 mL) was added and the mixture was washed with 4% NaHCO3 (2×200 mL) and water (200 mL). The solution was stirred with 15% NH4Cl (300 mL) for 15 minutes, the pH was adjusted to 5.5 with 1N HCl, and then stirred for 1 hour. The solids were filtered off. The filtrate was washed with IPAc (50 mL), and the IPAc layer separated. The IPAc layer was stirred with 15% NH4Cl (200 mL) for 3 hours and any solids filtered off. The filtrate was washed with saturated aqueous NaCl (150 mL) and distilled under vacuum to ˜60 mL. DCM (50 mL) was added and distilled off. DCM (200 mL) was added and the mixture was cooled 0-5° C. TFA (70 mL) was added slowly (slightly exothermic) at below 15° C., and the mixture was stirred at 20° C. for 16 hours. The mixture was concentrated to ˜150 ml, and IPAc (150 mL) was added. The mixture was distilled to ˜150 mL. Additional IPAc (150 mL) was added, and again distilled to 150 mL. IPAc (200 mL) was added and the resulting solution was slowly added to pre-cooled K2CO3 (52 g) in water (250 mL) at below 10° C. (mildly exothermic, pH>7 must >6 during quench) over 15 minutes. The pH was monitored during the transfer, and additional base (8 g) was added when the pH dropped below 6. The IPAc layer was separated and washed with saturated aqueous NaCl (150 mL). The IPAc solution was distilled to ˜50 mL. MTBE (100 mL) was added and the mixture distilled to ˜50 mL. Additional MTBE (100 mL) was added and the mixture was stirred at room temperature for 3 hours, forming a slurry, which was then stirred at 4° C. for 16 hours. The solids were filtered off and washed with MTBE/diisopropyl ether (1:1; 100 mL). The solids were then dried at room temperature for 60 hours under nitrogen to yield the title compound as a crystalline material (18.2 g).

reactant | 4′-(5-aminomethyl-2-ethoxy-4-ethylimidazol-1-ylmethyl)-3′-fluorobiphenyl-2-carboxylic acid t-butyl ester | 40 mmol, 18 g, 1 eq. | C(C)(C)(C)OC(=O)C=1C(=CC=CC1)C1=CC(=C(C=C1)CN1C(=NC(=C1CN)CC)OCC)F | C26H32FN3O3
reactant | (S)-2-acetylsulfanyl-4-methylpentanoic acid | 48 mmol, 18 g, 1.2 eq. | C(C)(=O)S[C@H](C(=O)O)CC(C)C | C8H14O3S
reactant | HCTU | 48 mmol, 19 g, 1.2 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC(Cl)=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NaHCO3 | 200 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 240 mL | C(Cl)Cl | CH2Cl2
product | 4′-{5-[((S)-2-Acetylsulfanyl-4-methylpentanoylamino)methyl]-2-ethoxy-4-ethylimidazol-1-ylmethyl}-3′-fluorobiphenyl-2-carboxylic Acid | C(C)(=O)S[C@H](C(=O)NCC1=C(N=C(N1CC1=C(C=C(C=C1)C=1C(=CC=CC1)C(=O)O)F)OCC)CC)CC(C)C | C30H36FN3O5S
